US08748632B2
A mixture of 4-chloro-3′-methylbiphenyl-3-carboxylic acid (1.70 g, 6.90 mmol), K2CO3 (7.0 g, 50.6 mmol) and CH3I (3 mL, 48 mmol) in acetone (30 mL) was heated under reflux for 1 h. After filtration and evaporation of excess CH3I, the residue was washed with water and extracted with ethyl acetate, dried over anhydrous Na2SO4, and evaporated solvent in vacuo to provide crude methyl 4-chloro-3′-methylbiphenyl-3-carboxylate (1.77 g, 98%) as a brown oil. 1H NMR (300 MHz, DMSO-d6): δ 8.04 (s, 1H), 7.85 (d, J=7.8 Hz, 1H), 7.64 (d, J=8.1 Hz, 1H), 7.52-7.47 (m, 2H), 7.38 (t, J=7.8 Hz, 1H), 7.23 (d, J=7.5 Hz, 1H), 3.90 (s, 3H), 2.39 (s, 3H).

reactant | 4-chloro-3′-methylbiphenyl-3-carboxylic acid | 6.90 mmol, 1.70 g | ClC1=C(C=C(C=C1)C1=CC(=CC=C1)C)C(=O)O | C14H11ClO2
reactant | K2CO3 | 50.6 mmol, 7.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 48 mmol, 3 mL | CI | CH3I
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | methyl 4-chloro-3′-methylbiphenyl-3-carboxylate | 1.77 g, 98% | ClC1=C(C=C(C=C1)C1=CC(=CC=C1)C)C(=O)OC | C15H13ClO2
